US04125729
[p-(α,α,α-Trifluoro-m-tolyloxy)phenyl]acetic Acid
A mixture of 12.40 g of methyl [p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate, 30 ml of 20% KOH and 10 ml of water is refluxed overnight. After dilution with 250 ml of water, the clear orange solution is acidified and extracted with two 50 ml portions of chloroform. The combined organic extracts are washed with two 50 ml portions of water, saturated brine, and dried over MgSO4. Evaporation of the solvent affords white crystals, mp 61°-63° C (from petroleum ether). Recrystallization from petroleum ether affords colorless blades, mp 61°-62.5° C.

reactant | methyl [p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate | 12.40 g | FC(C1=CC(=CC=C1)OC1=CC=C(C=C1)CC(=O)OC)(F)F | C16H13F3O3
reactant | KOH | 30 ml | [OH-].[K+]
solvent | water | 250 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | [p-(α,α,α-Trifluoro-m-tolyloxy)phenyl]acetic Acid | FC(C1=CC(=CC=C1)OC1=CC=C(C=C1)CC(=O)O)(F)F | C15H11F3O3
